US06498165B1
2-[2,2-Dimethylpropylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 2,2-dimethylpropylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (CI): 282.2 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.66 (s, 1H); 8.39 (br s, 1H); 8.19 (d, J=6.6 Hz, 1H); 7.88 (m, 1H); 7.41 (m, 2H); 6.79 (m, 1H); 5.46 (br s, 1H); 3.40 (d, J=6.4 Hz, 2H); 1.04 (s, 9H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 2,2-dimethylpropylamine | CC(CN)(C)C | C5H13N
product | 2-[2,2-Dimethylpropylamino]-4-[benzimidazol-1-yl]pyrimidine | CC(CNC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2)(C)C | C16H19N5
